US09107916B2
C. 2-[5-[(3-chloro-4-cyclopropylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3-chloro-4-cyclopropylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 0.68-0.71 (2H, m), 1.01-1.06 (2H, m), 2.16-2.23 (1H, m), 5.17 (2H, s), 5.73 (1H, d, J=2.0 Hz), 6.94 (1H, d, J=8.0 Hz), 7.20 (1H, dd, J=1.6 Hz, 8.0 Hz), 7.40 (1H, dd, J=1.2 Hz, 5.2 Hz), 7.45 (1H, d, J=1.6 Hz), 7.56 (1H, d, J=1.6 Hz), 8.03 (1H, s), 8.71 (1H, d, J=4.8 Hz). [M+H] Calc'd for C19H15ClN4O, 351. Found, 351.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3-chloro-4-cyclopropylphenyl)methanol | ClC=1C=C(C=CC1C1CC1)CO | C10H11ClO
product | 2-[5-[(3-chloro-4-cyclopropylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC=1C=C(C=CC1C1CC1)COC1=CC=NN1C1=NC=CC(=C1)C#N | C19H15ClN4O
